US05395815
Under a nitrogen atmosphere, 4-acetoxycinnamic acid (150 g) and N,N-dimethylformamide (5 ml) were suspended in chloroform (800 ml) and thereto was added dropwise thionyl chloride (104 g) over a period of about 30 minutes. After completion of the addition, the reaction mixture was reflexed with heating for 1 hour to prepare the corresponding acid chloride. The reaction mixture was cooled to room temperature and thereto was added dropwise a solution of octadecylamine (196 g) and triethylamine (81 g) in chloroform (50 ml) over a period of about 30 minutes, followed by refluxing with heating for 3 hours. The reaction mixture was cooled to room temperature to precipitate a white crystal, which was filtered off under reduced pressure and dried to obtain N-octadecyl-p-acetoxycinnamamide (258 g). Yield 78%. This was suspended in 1,4-dioxane (1200 ml) and thereto was added aqueous KOH solution 50%; 127 g) and the reaction was allowed to proceed at 40°-45° C. for 24 hours. After completion of the reaction, the reaction mixture was cooled to room temperature to precipitate a white crystal, which was filtered off under reduced pressure. This crystal was washed with distilled water and recrystallized from methanol to obtain the desired product (211 g). Yield 90%; m.p. 114° C.

reactant | 4-acetoxycinnamic acid | 150 g | C(C)(=O)OC1=CC=C(C=CC(=O)O)C=C1 | C11H10O4
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 104 g | S(=O)(Cl)Cl | Cl2OS
reactant | octadecylamine | 196 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
solvent | chloroform | 800 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 81 g | C(C)N(CC)CC | C6H15N
product | N-octadecyl-p-acetoxycinnamamide | 258 g, Yield 78% | C(CCCCCCCCCCCCCCCCC)NC(C=CC1=CC=C(C=C1)OC(C)=O)=O | C29H47NO3
